US05734067
Amyl alcohol (44 ml) was added to 2,3-dimethoxyphenol (5 g), 2'-bromoacetophenone (7 g), potassium carbonate (6.7 g) and copper acetate (1.1 g), followed by heating and stirring at 150° C. for 8 hours for reacting them together. To the reaction solution was added ethyl acetate (300 ml), and the resulting solution was washed in dilute hydrochloric acid, in water, and in a saturated sodium chloride solution, and dried over anhydrous magnesium sulfate, and the solvents therein were distilled off under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent: hexane:ethyl acetate=8:1), to recover 2-(2,3-dimethoxyphenoxy)acetophenone (7.6 g; yield of 87%). By 1H-NMR (90 MHz, CDCl3), the compound has the peaks shown below.

reactant | Amyl alcohol | 44 ml | C(CCCC)O | C5H12O
reactant | 2,3-dimethoxyphenol | 5 g | COC1=C(C=CC=C1OC)O | C8H10O3
reactant | 2'-bromoacetophenone | 7 g | BrC1=C(C=CC=C1)C(C)=O | C8H7BrO
reactant | potassium carbonate | 6.7 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper acetate | 1.1 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2,3-dimethoxyphenoxy)acetophenone | 7.6 g, yield of 87% | COC1=C(OCC(=O)C2=CC=CC=C2)C=CC=C1OC | C16H16O4
